US04329347
6-[4-(3-Hydroxy-pyrid-2-yl-mercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 122 from 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril (m.p. 142°-147° C.) and 3-hydroxy-2-mercapto-pyridine.

reactant | 6-(4-bromo-butoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
reactant | 3-hydroxy-2-mercapto-pyridine | OC=1C(=NC=CC1)S | C5H5NOS
product | 6-[4-(3-Hydroxy-pyrid-2-yl-mercapto)-butoxy]-3,4-dihydro-carbostyril | OC=1C(=NC=CC1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C18H20N2O3S
